resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 1.013733
R2 0 n2 1.015292
R3 0 n4 0.984187
R4 n1 n3 0.998199
R5 n1 n5 0.987959
R6 n2 n3 1.000747
R7 n2 n6 0.047888
R8 n3 n7 1.015089
R9 n4 n5 0.986003
R10 n4 n6 0.995027
R11 n5 n7 1.005115
R12 n6 n7 1.005785
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
